2185-10-13 11:04:00 Physician Attending Progress Note
Chief Complaint: Shortness of breath. Fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Admitted, didnot required more Bipap overnight. Stable respiratory
   status on 6L NC and weaned to 3L (baseline O2 requirement).
   History obtained from Patient
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   pruritus;
   Lisinopril
   Cough;
   Metoprolol
   pruritus;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-10-13**] 01:22 AM
   Pantoprazole (Protonix) - [**2185-10-13**] 08:01 AM
   Other medications:
   nephrocaps, atrovent, levofloxacin, vancomycin, colace, ursodiol,
   prednisone 20, bacrim MWF, sirolimus, pantoprazole, nifedipine,
   losartan, lamictal, hydroxyzine [**Hospital1 **].
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-13**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 98 (93 - 104) bpm
   BP: 110/77(85) {101/73(79) - 165/106(119)} mmHg
   RR: 23 (18 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  650 mL
   PO:
                  100 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    100 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 3L
   SpO2: 92%
   ABG: 7.44/36/57/23/0
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral symmetric)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   12.0 g/dL
   145 K/uL
   96 mg/dL
   8.2 mg/dL
   23 mEq/L
   6.0 mEq/L
   47 mg/dL
   101 mEq/L
   138 mEq/L
   40.1 %
   7.4 K/uL
        [image002.jpg]
                             [**2185-10-13**]  12:58 AM
                             [**2185-10-13**]  04:37 AM
   WBC
   7.4
   Hct
   40.1
   Plt
   145
   Cr
   8.2
   TropT
   0.10
   TCO2
   25
   Glucose
   96
   Other labs: PT / PTT / INR:15.5/33.2/1.4, CK / CKMB /
   Troponin-T:98//0.10, Lactic Acid:1.9 mmol/L, Ca++:8.7 mg/dL, Mg++:2.5
   mg/dL, PO4:5.0 mg/dL
   Imaging: CXR with clearing of infiltrate in RML.
   Assessment and Plan
 .H/O FEVER:
   High grade fever in the ER. follow up blood cultures, also follow up
   sputum and urine culture. Cover broadly with levo/vanco.
 .H/O PNEUMONIA, OTHER;
   continue antibiotics, also apperas volume overloaded, HD today with
   fluid removal.
Sarcoid and pulmonary HTN: on prednisone, bactrim, Oxygen
   supplementation
Renal failure: on HD TTS schedule, HD today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-10-13**] 12:00 AM
   Dialysis Catheter - [**2185-10-13**] 08:07 AM
   Prophylaxis:
   DVT: Boots(on no anticoagulation due to severe prior GI bleeds.)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2185-10-14 11:10:00 Physician Attending Progress Note
Chief Complaint: Fever, Shortness of breath, GI bleed.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   During HD yesterday, developed cramps in LE, and developed gross
   melena, femoral access placed urgently, Gi differed EGD, transfused 1U
   PRBC for hct to 33 and persistent tachycardia. IR consulted for
   evaluation for SVC syndrome.
 BLOOD CULTURED - At [**2185-10-13**] 08:44 PM
 FEVER - 102.7
F - [**2185-10-13**] 08:00 PM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   pruritus;
   Lisinopril
   Cough;
   Metoprolol
   pruritus;
   Last dose of Antibiotics:
   Vancomycin - [**2185-10-13**] 09:24 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2185-10-13**] 03:40 PM
   Other medications:
   atrovent, levofloxacin, vancomycin, prednisone, bactrim, sevelamer,
   nifedipine, lamictal, hydroxyzine.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-14**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.2
C (99
   HR: 106 (98 - 129) bpm
   BP: 147/88(102) {100/63(73) - 154/94(105)} mmHg
   RR: 22 (19 - 37) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 59.4 kg (admission): 54 kg
           Total In:
                                                                  1,797 mL
                                                                    131 mL
   PO:
                                                                    100 mL
           TF:
   IVF:
                                                                    820 mL
                                                                    108 mL
   Blood products:
                                                                    327 mL
                                                                     23 mL
   Total out:
                                                                    110 mL
                                                                    100 mL
   Urine:
                                                                    110 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,687 mL
                                                                     31 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.49/37/77/26/4
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : at bases, decreased from yesterday)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   133 K/uL
   87 mg/dL
   7.7 mg/dL
   26 mEq/L
   4.5 mEq/L
   51 mg/dL
   104 mEq/L
   144 mEq/L
   36.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2185-10-13**]  12:58 AM
                             [**2185-10-13**]  04:37 AM
                             [**2185-10-13**]  02:38 PM
                             [**2185-10-13**]  03:45 PM
                             [**2185-10-13**]  04:03 PM
                             [**2185-10-13**]  04:13 PM
                             [**2185-10-13**]  04:55 PM
                             [**2185-10-13**]  07:11 PM
                             [**2185-10-14**]  02:13 AM
                             [**2185-10-14**]  07:08 AM
   WBC
   7.4
   3.7
   12.2
   Hct
   40.1
   38
   38
   37.9
   33.6
   35.6
   36.9
   Plt
   145
   155
   133
   Cr
   8.2
   2.4
   6.2
   7.7
   TropT
   0.10
   TCO2
   25
   29
   Glucose
   96
   166
   117
   113
   87
   Other labs: PT / PTT / INR:16.0/30.6/1.4, CK / CKMB /
   Troponin-T:98//0.10, ALT / AST:[**9-18**], Alk Phos / T Bili:268/2.5, Lactic
   Acid:3.4 mmol/L, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR: stable.
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD):
   Continue HD TTS. UF today. Resume home po meds this morning gradually.
 FEVER:
   vanco/levofloxacin, f/u pancultures. f/u echo read.
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB):
   supportive care, unlikely to benefit from endoscopy. PPI gtt. f/r hct.
 SVC syndome: for venogram today, ? intervention by IR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-10-13**] 12:00 AM
   Dialysis Catheter - [**2185-10-13**] 08:07 AM
   Multi Lumen - [**2185-10-13**] 05:15 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, possibly floor if hct stable,and tachycardia
   resolves.
   Total time spent: 30 minutes

2185-10-15 07:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2185-10-14**] 08:40 AM
 MAGNETIC RESONANCE IMAGING - At [**2185-10-14**] 04:26 PM
   MRI neck & pelvis
   [**10-14**]
   - Hct remained stable and GI said no scope given multiple AVMs and
   unable to intervene on them.
   - Advanced diet to clears and she had a melanotic stool, had normal
   trace guiac + stools after that and Hct remained stable. Did not
   transfuse. Has crossmatched 2 UPRBCs
   - Initially called out but then kept [**2-28**] melena
   - Decreased her prednisone to 15mg daily
   - Added back her losartan
   - Called husband but he was not home
   - D/c'd NGT
   - Bubble study showed shunt
   - MRV showed patent SVC but stenosis of subclavian on R which she may
   have angioplasty for as an outpt.
   - Continued groin line, consider d/c'ing in am
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   pruritus;
   Lisinopril
   Cough;
   Metoprolol
   pruritus;
   Last dose of Antibiotics:
   Vancomycin - [**2185-10-13**] 09:24 PM
   Levofloxacin - [**2185-10-14**] 12:00 PM
   Bactrim (SMX/TMP) - [**2185-10-14**] 12:00 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-10-14**] 01:00 PM
   Lorazepam (Ativan) - [**2185-10-14**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-15**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.2
   HR: 91 (90 - 111) bpm
   BP: 138/88(99) {115/79(79) - 149/104(114)} mmHg
   RR: 20 (14 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.4 kg (admission): 54 kg
   Height: 65 Inch
             Total In:
                                                                    248 mL
                                                                     76 mL
   PO:
             TF:
   IVF:
                                                                    225 mL
                                                                     76 mL
   Blood products:
                                                                     23 mL
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    148 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   127 K/uL
   10.4 g/dL
   85 mg/dL
   9.5 mg/dL
   25 mEq/L
   5.3 mEq/L
   61 mg/dL
   100 mEq/L
   140 mEq/L
   34.0 %
   6.0 K/uL
        [image002.jpg]
                             [**2185-10-13**]  03:45 PM
                             [**2185-10-13**]  04:03 PM
                             [**2185-10-13**]  04:13 PM
                             [**2185-10-13**]  04:55 PM
                             [**2185-10-13**]  07:11 PM
                             [**2185-10-14**]  02:13 AM
                             [**2185-10-14**]  07:08 AM
                             [**2185-10-14**]  01:04 PM
                             [**2185-10-14**]  07:38 PM
                             [**2185-10-15**]  03:04 AM
   WBC
   3.7
   12.2
   6.0
   Hct
   38
   38
   37.9
   33.6
   35.6
   36.9
   35.9
   37.4
   34.0
   Plt
   155
   133
   127
   Cr
   6.2
   7.7
   9.5
   TCO2
   29
   Glucose
   117
   113
   87
   85
   Other labs: PT / PTT / INR:15.3/31.8/1.3, CK / CKMB /
   Troponin-T:98//0.10, ALT / AST:[**9-18**], Alk Phos / T Bili:268/2.5, Lactic
   Acid:3.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:5.8 mg/dL
   MRV neck
   1. Occlusion of right IJ vein.
   2. Moderate stenosis of right subclavian vein.
   3. Moderate stenosis of the right bracheocephalic vein near confluence
   with
   SVC.
   4. Small amount of adherent fibrin around the portion of the left IJ
   dialysis
   catheter within the SVC. Otherwise SVC grossly patent.
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 .H/O PNEUMONIA, OTHER
   50 yo f with hx of sarcoid, ESRD, HTN, admitted with SOB with hypoxia
   in setting of fever concerning for PNA, now with melena
   .
   # Melena: Likely secondary to known multiple AVMs from EGD/[**Last Name (un) **] in
   5/[**2185**].  Given 1 pRBC 9/17t.  Tachycardia improved. Hct now at 34.
   - large bore IV and fem line for access
   - q 8 h today
   - transfuse pRBC for active bleeding / signs of instability (favor over
   giving more fluid)
   - appreciate GI recs, no EGD at this time due to hx of AVMs
   - active T&S with crossmathced units
   - IV ppi gtt
   - steroids are decreased to 15mg prednisone QD
   - ADAT, clears this AM
   .
   # Dyspnea/Hypoxia/PNA: has been having a chronic cough for several
   weeks. Recent echo is concerning for some decreased RV function which
   may be due to worsening lung disease at baseline and now pt likely has
   a RLL PNA. She has already had a zpak without improvement. Now also
   having fluid overload due to recent short HD sessions, which is likely
   an important contribution to her SOB
   - oxygen to keep sats> 92%
   - albuterol and ipratropium nebs
   - tx with vanco and levo (has allergy to PCN) for 8 day course, on day
   3
   - mucinex PRN
   - f/u with renal regarding HD
   # Sepsis: Has had fever and elevated lactate of 2.9, then3.4 on [**10-13**],
   with likely PNA on chest xray in RLL. BP has been stable to elevated so
   far. Is likely fluid overloaded due to decreased HD sessions which
   should help prevent hypotension. Blood cultures have been negative
   doubt line infxn.
   - f/u culture data
   - abx as above
   - monitor BP, continue meds for now
   - CIS
   # ESRD on HD: Has been having decreased sessions recently due to
   cramps. Has HD at [**Location (un) 514**] with SC tunneled line.  HD Tu/Th/Sa.
   Ultrafiltration on Friday.
   - f/u renal regarding HD
   - renally dose meds
   - phosphate binder
   - start Nephrocaps
   - Ativan PRN cramps with HD
   # Hypertension:
   - on losartan
   - will restart niifedipine if no bleeding after HD,
   # Epilepsy: last sz in [**2182**]
   - continue home keppra dose
   # Sarcoid/Pulm htn: chronic, cause of ESRD and lung disease
   - continue at least 3 liters NC (home dose)
   - on decreased steroids given bleeding
   # FEN: replete lytes prn / renal diet, Nephrocaps, MV
   # PPX: PPI gtt, bowel regimen, Bactrim
   # ACCESS: PIV x 2, femoral line
   # CONTACT:  [**Name (NI) 651**] [**Telephone/Fax (3) 10267**]
   ICU Care
   Nutrition: NPO for now, will start clears today
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-10-13**] 12:00 AM
   Dialysis Catheter - [**2185-10-13**] 08:07 AM
   Multi Lumen - [**2185-10-13**] 05:15 PM
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now, if hct stable will transfer to floor in AM if
   stable
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2185-10-15**] 15:03 ------

2185-10-15 09:44:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: pneumonia, GIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50yo F with sarcoid, ESRD and pulmonary hypertension on chronic
   prednisone who p/w dyspnea after less fluid removed at HD and with new
   productive cough and chills.  Found here to have pneumonia, with course
   c/b GIB.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   pruritus;
   Lisinopril
   Cough;
   Metoprolol
   pruritus;
   Last dose of Antibiotics:
   Vancomycin - [**2185-10-13**] 09:24 PM
   Levofloxacin - [**2185-10-14**] 12:00 PM
   Bactrim (SMX/TMP) - [**2185-10-14**] 12:00 PM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-10-14**] 01:00 PM
   Lorazepam (Ativan) - [**2185-10-14**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-15**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 92 (90 - 109) bpm
   BP: 145/95(108) {115/79(79) - 149/104(114)} mmHg
   RR: 21 (14 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.4 kg (admission): 54 kg
   Height: 65 Inch
             Total In:
                                                                    248 mL
                                                                     94 mL
   PO:
             TF:
   IVF:
                                                                    225 mL
                                                                     94 mL
   Blood products:
                                                                     23 mL
   Total out:
                                                                    100 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    148 mL
                                                                     94 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   127 K/uL
   85 mg/dL
   9.5 mg/dL
   25 mEq/L
   5.3 mEq/L
   61 mg/dL
   100 mEq/L
   140 mEq/L
   34.0 %
   6.0 K/uL
        [image002.jpg]
                             [**2185-10-13**]  03:45 PM
                             [**2185-10-13**]  04:03 PM
                             [**2185-10-13**]  04:13 PM
                             [**2185-10-13**]  04:55 PM
                             [**2185-10-13**]  07:11 PM
                             [**2185-10-14**]  02:13 AM
                             [**2185-10-14**]  07:08 AM
                             [**2185-10-14**]  01:04 PM
                             [**2185-10-14**]  07:38 PM
                             [**2185-10-15**]  03:04 AM
   WBC
   3.7
   12.2
   6.0
   Hct
   38
   38
   37.9
   33.6
   35.6
   36.9
   35.9
   37.4
   34.0
   Plt
   155
   133
   127
   Cr
   6.2
   7.7
   9.5
   TCO2
   29
   Glucose
   117
   113
   87
   85
   Other labs: PT / PTT / INR:15.3/31.8/1.3, CK / CKMB /
   Troponin-T:98//0.10, ALT / AST:[**9-18**], Alk Phos / T Bili:268/2.5, Lactic
   Acid:3.4 mmol/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
 Pneumonia: being treated with vanc/levo for HAP, improved dyspnea
   since admission
   - vancomycin at HD, levofloxacin dosed per ESRD both day [**4-3**]
   - continue nebs
ESRD: getting HD today, CXR with more volume overload and increased
   pleural effusion on the R
   - on phosphate binder/nephrocaps
 GIB: per GI, no intervention
   - will space out crits [**Last Name (LF) 10306**], [**First Name3 (LF) 178**] d/w GI about changing to [**Hospital1 **] PPI
   - will follow crit daily, watch for signs of ongoing bleeding
   - advance diet as tolerated today
 Sarcoid: on prednisone 15mg, continue supplemental oxygen
   - on bactrim prophylaxis
   - continue on slightly lower prednisone dose for now
 Hypertension: restarting losartan today, will add on nifedipine later
   today if HDS
 Vascular stenosis: plan for angioplasty in the future, non-emergent
   ICU Care
   Nutrition:
   Comments: advancing diet today
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-10-13**] 12:00 AM
   Dialysis Catheter - [**2185-10-13**] 08:07 AM
   Multi Lumen - [**2185-10-13**] 05:15 PM
   Comments: will plan to pull femoral line later today if no more
   bleeding and no peripheral IV
   Prophylaxis:
   DVT: (h/o HIT)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2185-10-16 11:33:00 Physician Attending Progress Note
Chief Complaint: GI bleed, fever probable pneumonia.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling well no complaints.
   24 Hour Events:
   Diet advanced, d/c femoral line, no further melena.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   pruritus;
   Lisinopril
   Cough;
   Metoprolol
   pruritus;
   Last dose of Antibiotics:
   Vancomycin - [**2185-10-13**] 09:24 PM
   Levofloxacin - [**2185-10-14**] 12:00 PM
   Bactrim (SMX/TMP) - [**2185-10-14**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-10-16**] 08:00 AM
   Other medications:
   nephrocaps, levofloxacin, vanocmycin, colace, ursodiol, bactrimm,
   sevelamir, losartan, lamotrigine, hydroxysine, prednisone,
   pantoprazole.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-10-16**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 92 (90 - 102) bpm
   BP: 124/78(88) {115/72(84) - 156/112(121)} mmHg
   RR: 20 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 59.4 kg (admission): 54 kg
   Height: 65 Inch
                  Total In:
                                                                    388 mL
                                                                    400 mL
   PO:
                                                                    200 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    188 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    100 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    388 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 3L
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases bilaterally)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   11.7 g/dL
   144 K/uL
   106 mg/dL
   8.0 mg/dL
   28 mEq/L
   3.9 mEq/L
   42 mg/dL
   99 mEq/L
   142 mEq/L
   38.7 %
   5.5 K/uL
        [image002.jpg]
                             [**2185-10-13**]  04:55 PM
                             [**2185-10-13**]  07:11 PM
                             [**2185-10-14**]  02:13 AM
                             [**2185-10-14**]  07:08 AM
                             [**2185-10-14**]  01:04 PM
                             [**2185-10-14**]  07:38 PM
                             [**2185-10-15**]  03:04 AM
                             [**2185-10-15**]  07:37 AM
                             [**2185-10-15**]  05:08 PM
                             [**2185-10-16**]  03:55 AM
   WBC
   3.7
   12.2
   6.0
   6.9
   5.5
   Hct
   37.9
   33.6
   35.6
   36.9
   35.9
   37.4
   34.0
   36.8
   37.9
   38.7
   Plt
   155
   133
   127
   141
   144
   Cr
   7.7
   9.5
   8.0
   Glucose
   87
   85
   106
   Other labs: PT / PTT / INR:14.2/29.9/1.2, CK / CKMB /
   Troponin-T:98//0.10, ALT / AST:[**9-18**], Alk Phos / T Bili:268/2.5, Lactic
   Acid:3.4 mmol/L, Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR yesterday reviewed.
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD);
   contineu HD, volume status improved.
 FEVER: Likely pneumonia, Blood cultures otherwise negative.
   discharge on vanco iv at HD and levofloxacin
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB):
   improved s/p 1U PRBC, hct stable
 Avgraft: angioplasty as outpatient.
   f/u with Dr. [**Last Name (STitle) **] and Dr. [**Last Name (STitle) 5991**] shortly after discharge.
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2185-10-13**] 12:00 AM
   Dialysis Catheter - [**2185-10-13**] 08:07 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :D/C Home ; 15 min total time